US05864045
N-t-Butoxycarbonyl-2-[(4-hydroxy-phenyl)]-ethylamine
Combine 2-[(4-hydroxy)-phenyl]-ethylamine hydrochloride (3.47 g, 20.0 mmol), diisopropylethylamine (3.48 mL, 20.0 mmol), and di-t-butyl dicarbonate (4.36 g, 20.0 mmol) in 1/1 DMF/ethyl acetate (40 mL). Stir at ambient temperature for 2 hours. Dilute with ethyl acetate and extract with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: TLC Rf =0.32 (silica gel, 30% ethyl acetate/hexane).

reactant | 2-[(4-hydroxy)-phenyl]-ethylamine hydrochloride | 20.0 mmol, 3.47 g | Cl.OC1=CC=C(C=C1)CCN
reactant | diisopropylethylamine | 20.0 mmol, 3.48 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-t-butyl dicarbonate | 20.0 mmol, 4.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DMF ethyl acetate | 40 mL | CN(C)C=O.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-Butoxycarbonyl-2-[(4-hydroxy-phenyl)]-ethylamine | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)O | C13H19NO3
